US07531553B2
Preparation XX: (S)-2-(2-Chloro-5-nitro-phenoxymethyl)-pyrrolidine
(S)-2-(2-Chloro-5-nitro-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (6.94 g, 19.45 mmol) was stirred in 30 mL CH2Cl2 and 20 ml TFA for 3 h. The reaction was concentrated and dissolved in 0.1 N HCl (aq), which was basified to pH>12 with solid NaOH and extracted 3× with EtOAc. The organic layers were washed once with 1 N NaOH then once with a mixture of brine and 1 N NaOH. The organic layers were combined, dried over Na2SO4, filtered, and concentrated to dryness, to yield the title compound as a yellow solid.

reactant | (S)-2-(2-Chloro-5-nitro-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 19.45 mmol, 6.94 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=C(C=CC(=C1)[N+](=O)[O-])Cl | C16H21ClN2O5
reactant | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(2-Chloro-5-nitro-phenoxymethyl)-pyrrolidine | ClC1=C(OC[C@H]2NCCC2)C=C(C=C1)[N+](=O)[O-] | C11H13ClN2O3
